US06194425B1
Platinum oxide catalyst was added to a solution of 1-(2-methylpropyl)-1H-tetrazolo[1,5-a]imidazo[4,5-c][1,8]naphthyridine in trifluoroacetic acid (30 mL). The reaction mixture was reduced on a Parr apparatus at 50 psi (3.5 Kg/cm2) hydrogen pressure for 5 hours. The reaction mixture was filtered to remove the catalyst. The filtrate was concentrated under vacuum. The residue was combined with water and sodium bicarbonate. The resulting precipitate was isolated by filtration. The solid was dissolved in 1N hydrochloric acid and charcoal filtered. The filtrate was treated with 10% sodium hydroxide. The resulting precipitate was isolated by filtration then recrystallized from ethyl acetate/methanol. The recrystallized material was dissolved in dichloromethane/methanol and placed on a silica gel column. The column was eluted with 10% methanol in ethyl acetate. The eluant was concentrated under vacuum and the residue was recrystallized from methanol/water to provide 0.9 g of 6,7,8,9-tetrahydro-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,8]naphthyridin-4-amine as a solid, m.p. 231-233° C. Analysis: Calculated for C13H19N5: % C, 63.65; % H, 7.81; % N, 28.55; Found: % C, 62.99; % H, 7.74; % N, 28.33.

reactant | 1-(2-methylpropyl)-1H-tetrazolo[1,5-a]imidazo[4,5-c][1,8]naphthyridine | CC(CN1N=NN2C1=C1C(C=3C=CC=NC23)=NC=N1)C | C13H13N7
reactant | hydrogen | [H][H] | H2
catalyst | Platinum oxide | [Pt]=O
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | hydrochloric acid | 1N | Cl | ClH
product | 6,7,8,9-tetrahydro-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,8]naphthyridin-4-amine | 0.9 g | CC(CN1C=NC=2C(=NC=3NCCCC3C21)N)C | C13H19N5
